Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Table saw injury to the left hand including the left long, ring, 
and small fingers -- with lacerations of long and ring fingers,
laceration of small finger nail bed, and multiple phalangeal
fractures
 
Major Surgical or Invasive Procedure:
___ with Dr. ___

1.  Small finger nail bed repair.
 2.  Left ring finger irrigation and debridement with excision
 of necrotic bone; Primary DIP joint arthrodesis; Repair of the 
ulnar digital nerve; nail bed repair.
 3.  Left long finger irrigation and debridement of an open
 fracture down to bone with excision of necrotic fragments. 
Repair of the ulnar digital nerve, Repair of the radial digital 
nerve, Repair of the radial digital artery, Nail bed repair.

 
History of Present Illness:
CC: left long, ring finger partial laceration by table saw

HPI:
___ is a ___ year old male who was cutting a piece of
plastic on a table saw earlier today he sliced his left hand on
the saw.

He has not eaten or had anything to drink since this morning.  

He takes lisinopril 40 and allopurinol ___ daily.

He received tetanus shot and ancef. 

Of note, he endorses prior injuries to left hand including thumb
fingertip injury treated by secondary intention, index fingertip
injury. These have left him insensate at fingertips of index and
thumb on the left. 

He is married with children. Lives with wife in ___. Denies
smoking. social alcohol use. denies drug use. active in ___ as ___, ___ in ___ and ___. 

ROS: as mentioned in the HPI, and otherwise negative in the
following systems: constitutional, skin, heme, lymphatic,
neurological, psychiatric, HEENT, pulmonary, cardiac,
gastrointestinal, genitourinary, musculoskeletal, endocrine, and
allergic/immune.

 
Past Medical History:
Problems  (Last Verified - None on file):
Gout, hypertension                                           

PSH:

bilateral TKR ___
laminectomy ___                         

Medications:
as above
 
Social History:
___
Family History:
NC
 
Physical Exam:
Temp: 98.3 PO BP: 147/88 HR: 70 RR: 18 O2 sat: 95%
O2 delivery: Ra 
Patient well-appearing 
NAD
Left hand in splint; all exposed finger tips with cap refill <2
seconds
Patient endorses improving sensation throughout exposed 
fingertips, though no sensation to light touch at the ulnar and 
radial aspects of the distal long finger, sensation of the ___ 
and ___ digits intact distally
 
Pertinent Results:
___ 04:23AM BLOOD WBC-10.5* RBC-3.62* Hgb-11.2* Hct-34.1* 
MCV-94 MCH-30.9 MCHC-32.8 RDW-13.8 RDWSD-47.5* Plt ___
___ 03:30PM BLOOD WBC-9.1 RBC-4.39* Hgb-13.8 Hct-41.0 
MCV-93 MCH-31.4 MCHC-33.7 RDW-13.5 RDWSD-46.5* Plt ___
___ 04:23AM BLOOD Neuts-71.4* Lymphs-17.5* Monos-9.9 
Eos-0.5* Baso-0.3 Im ___ AbsNeut-7.49* AbsLymp-1.84 
AbsMono-1.04* AbsEos-0.05 AbsBaso-0.03
___ 03:30PM BLOOD Neuts-78.0* Lymphs-14.0* Monos-7.2 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-7.06* AbsLymp-1.27 
AbsMono-0.65 AbsEos-0.03* AbsBaso-0.03
___ 10:16AM BLOOD PTT-PND
___ 04:23AM BLOOD Plt ___
___ 03:30PM BLOOD Plt ___
___:30PM BLOOD ___ PTT-25.2 ___
___ 04:23AM BLOOD Glucose-118* UreaN-14 Creat-0.8 Na-140 
K-3.9 Cl-105 HCO3-26 AnGap-9*
___ 03:30PM BLOOD Glucose-97 UreaN-15 Creat-0.8 Na-140 
K-4.5 Cl-103 HCO3-25 AnGap-12
___ 04:23AM BLOOD Calcium-8.4 Phos-4.3 Mg-2.1
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the hand surgery team. The patient was found to 
have Table saw injury to the left hand including the left long, 
ring, and small fingers -- with lacerations of long and ring 
fingers,
laceration of small finger nail bed, and multiple phalangeal
fractures and was admitted to the orthopedic surgery service. 
The patient was taken to the operating room on ___ with Dr. 
___:
1.  Small finger nail bed repair.
 2.  Left ring finger irrigation and debridement with excision
 of necrotic bone; Primary DIP joint arthrodesis; Repair of the 
ulnar digital nerve; nail bed repair.
 3.  Left long finger irrigation and debridement of an open
 fracture down to bone with excision of necrotic fragments. 
Repair of the ulnar digital nerve, Repair of the radial digital 
nerve, Repair of the radial digital artery, Nail bed repair
 which the patient tolerated well. For full details of the 
procedure please see the separately dictated operative report. 
The patient was taken from the OR to the PACU in stable 
condition and after satisfactory recovery from anesthesia was 
transferred to the floor. The patient was initially given IV 
fluids and IV pain medications, and progressed to a regular diet 
and oral medications by POD#1. The patient was given 
___ antibiotics and anticoagulation per routine. The 
patient's home medications, with the exception of lisinopril and 
allopurinol were continued throughout this hospitalization.  The 
___ hospital course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
non weight bearing in the left upper extremity in splint to be 
worn until follow-up. He will continue on PO Augmentin for 5 
days from discharge. The patient will follow up with Dr. 
___ routine. A thorough discussion was had with the 
patient regarding the diagnosis and expected post-discharge 
course including reasons to call the office or return to the 
hospital, and all questions were answered. The patient was also 
given written instructions concerning precautionary instructions 
and the appropriate follow-up care. The patient expressed 
readiness for discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO 5X/DAY 
RX *acetaminophen 650 mg 1 tablet(s) by mouth 5 times daily Disp 
#*60 Tablet Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 5 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice daily Disp #*10 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*28 
Tablet Refills:*0 
4.  Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
5.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 0.5 to 1 tablet(s) by mouth every four (4) 
hours Disp #*28 Tablet Refills:*0 
6.  Allopurinol ___ mg PO DAILY  
7.  Lisinopril 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Table saw injury to the left hand including the left long, ring, 
and small fingers -- with lacerations of long and ring fingers,
laceration of small finger nail bed, and multiple phalangeal
fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER HAND/UPPER EXTREMITY SURGERY:

- You were in the hospital for hand surgery. It is normal to 
feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
Nonweightbearing to the left upper extremity in a splint to be 
worn until follow-up appointment 

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.
-- you will continue to take the antibiotic AUGMENTING for the 
next 5 days to protect you from infection, please be sure to 
take this medication as prescribed

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Please remain in your dressing and do not change unless it is 
visibly soaked or falling off.
- Splint must be left on until follow up appointment unless 
otherwise instructed

SPLINT CARE:
- Do NOT get splint wet
- Please remain in the splint until follow-up appointment.  
Again, please keep your splint dry at all times.  If you have 
concerns regarding your splint, please call the clinic at the 
number provided.

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever ___ 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

THIS PATIENT IS EXPECTED TO REQUIRE ___ DAYS OF REHAB
Physical Therapy:
NWB to the LUE
Treatments Frequency:
 
 
Followup Instructions:
___